US05143928
5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methoxymethylamino)-4(5H)-thiazolone, monohydrochloride, (Z)-
A solution of 5-[(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methoxymethylamino)-4(5H)-thiazolone (8.3 g, 0.022 mole) in 50 mL methylene chloride is treated with ethereal hydrogen chloride to give 9.1 g (quantitative yield) of pure product, mp 177°-179° C. It is recrystallized from methylene chloride-methanol-ether to give 6.0 g (66%) of analytically pure 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methoxymethylamino)-4(5H)-thiazolone, monohydrochloride, (Z)-, mp 177°-179° C.

reactant | 5-[(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methoxymethylamino)-4(5H)-thiazolone | 0.022 mole, 8.3 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)NCOC)=O | C20H28N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methoxymethylamino)-4(5H)-thiazolone, monohydrochloride | 9.1 g, quantitative yield | Cl.CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)NCOC)=O | InChI=1S/C20H28N2O3S.ClH/c1-19(2,3)13-8-12(9-14(16(13)23)20(4,5)6)10-15-17(24)22-18(26-15)21-11-25-7;/h8-10,23H,11H2,1-7H3,(H,21,22,24);1H
